US07205292B2
Step C: tert-Butyl (3R,7R)-2-oxo-7-phenylazepan-3-ylcarbamate
10% palladium on carbon (0.90 g) was added to a solution (3R,7R)-3-azido-7-phenylazepan-2-one (0.89 g, 3.87 mmol) in ethanol (10 mL). The reaction vessel was evacuated and back-filled with nitrogen (3×), then back-filled with hydrogen (1 atm). After 18 h, the mixture was filtered and concentrated. Triethylamine (0.61 mL, 4.41 mmol) was added to a solution of the crude amine and di-tert-butyl dicarbonate (0.96 g, 4.41 mmol) in dichloromethane (20 mL). After 1 h, the mixture was concentrated. Purification by silica gel chromatography (100% dichloromethane→95% dichloromethane/methanol) gave the title compound (0.79 g).

reactant | (3R,7R)-3-azido-7-phenylazepan-2-one | 3.87 mmol, 0.89 g | N(=[N+]=[N-])[C@H]1C(N[C@H](CCC1)C1=CC=CC=C1)=O | C12H14N4O
reactant | Triethylamine | 4.41 mmol, 0.61 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 4.41 mmol, 0.96 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | palladium on carbon | 0.90 g | [Pd] | Pd
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | tert-Butyl (3R,7R)-2-oxo-7-phenylazepan-3-ylcarbamate | 0.79 g | O=C1N[C@H](CCC[C@H]1NC(OC(C)(C)C)=O)C1=CC=CC=C1 | C17H24N2O3
